US04078064
2-Ethyl-8-isopropyl-5-morpholino-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine
By substituting 1-isopropyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester for the 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester and 1-ethoxypropylidene cyanamide for the ethoxymethylene cyanamide in part a and morpholine for the 3-dimethylaminopropylamine in part c of the procedure of Example 1, 2-ethyl-8-isopropyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidin-5(8H)-one, 5-chloro-2-ethyl-8-isopropyl-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine and 2-ethyl-8-isopropyl-5-morpholino-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pryimidine, respectively, are obtained.

reactant | 1-isopropyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C12H17N5O2
reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
reactant | 1-ethoxypropylidene cyanamide | C(C)OC(CC)=NC#N | C6H10N2O
reactant | ethoxymethylene cyanamide | C(C)OC=NC#N | C4H6N2O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
reactant | 2-ethyl-8-isopropyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidin-5(8H)-one | C(C)C1=NN2C(NC(C3=C2C2=C(N=C3)N(N=C2)C(C)C)=O)=N1 | C14H15N7O
reactant | 5-chloro-2-ethyl-8-isopropyl-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1C(C)C)N=C(N2)CC | C14H14ClN7
product | 2-Ethyl-8-isopropyl-5-morpholino-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | C(C)C1=NN2C(N=C(C3=C2C2=C(N=C3)N(N=C2)C(C)C)N2CCOCC2)=N1 | C18H22N8O
